US06156700
Preparation of 5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-α-ethyl-1,2-benzisothiazole-3-acetonitrile
To a solution of 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-acetonitrile (0.730 g, 0.00199 mol) in dimethyl sulfoxide is added iodoethane (0.170 ml, 0.00210 mol) followed by potassium carbonate (0.750 g, 0.00543 mol). The resultant mixture is stirred overnight at room temperature and poured onto a mixture of ice and 5% aqueous hydrochloric acid. The resultant solid is filtered, dried and taken up in a minimal amount of methylene chloride. Flash column chromatography using silica gel and 100% to 99:1 methylene chloride/diethyl ether gives the title compound as a white solid (0.220 g, 28.0%, mp 107-109° C.) which is identified by NMR spectral analysis.

reactant | 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-acetonitrile | 0.00199 mol, 0.730 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)CC#N)C1)=O | C15H9F3N4O2S
reactant | iodoethane | 0.00210 mol, 0.170 ml | ICC | C2H5I
reactant | potassium carbonate | 0.00543 mol, 0.750 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-α-ethyl-1,2-benzisothiazole-3-acetonitrile | 0.220 g, 28.0% | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C(C#N)CC)C1)=O | C17H13F3N4O2S
